US04259469
Preparation of N-(4-Methacryloyloxybenzyl)-methanesulfonamide
A mixture of 6.04 g (0.03 mol) of N-(4-hydroxybenzyl)methanesulfonamide, 3.04 g (0.03 mol) of triethylamine, and 30 ml of methylene chloride was cooled to approximately 0° C. To this mixture was added a solution of 3.14 g (0.03 mol) of methacryloyl chloride in 15 ml of methylene chloride over approximately 5 minutes. The mixture was stirred for an additional 15 minutes and filtered. The filtrate was washed twice with water, dried over magnesium sulfate and concentrated in a rotary evaporator. The solid residue was recrystallized from 1:1 hexane:1,2-dichloroethane. The yield of N-(4-methacryloyloxybenzyl)methanesulfonamide was 3.0 g (37.13 percent of theory), m.p.=101° to 102.5° C.

reactant | N-(4-hydroxybenzyl)methanesulfonamide | 0.03 mol, 6.04 g | OC1=CC=C(CNS(=O)(=O)C)C=C1 | C8H11NO3S
reactant | triethylamine | 0.03 mol, 3.04 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.03 mol, 3.14 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Methacryloyloxybenzyl)-methanesulfonamide | C(C(=C)C)(=O)OC1=CC=C(CNS(=O)(=O)C)C=C1 | C12H15NO4S
